US05849217
(3) Preparation of 2-{4-(4-methoxyphenyl) phenyl}ethanol
2,59 g (7.85 mol) of 2-{4-(4-methoxyphenyl) phenyl}ethylbenzylether, 0.4 g of 5% palladium activated carbon, 70 ml of ethanol and 6 ml of dioxane were injected and stirred at room temperature for 7 hours under presence of hydrogen. After the reactions had been completed, the catalyst was removed by tuck filtration and the solvent was removed by filtration so that 1.64 g of 2-{4-(4-methoxyphenyl) phenyl}ethanol was obtained (yield 92%).

reactant | 2-{4-(4-methoxyphenyl) phenyl}ethylbenzylether | 7.85 mol, 2,59 g | COC1=CC=C(C=C1)C1=CC=C(C=C1)CCOCC1=CC=CC=C1 | C22H22O2
reactant | ethanol | 70 ml | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | palladium activated carbon | 0.4 g | [Pd] | Pd
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | 2-{4-(4-methoxyphenyl) phenyl}ethanol | yield 92% | COC1=CC=C(C=C1)C1=CC=C(C=C1)CCO | C15H16O2
